US08431563B2
Following the procedure outlined for Example 69, 3-pyridineboronic acid (21.33 mg, 0.173 mmol) was coupled to 2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol to afford 1,1,1,3,3,3-hexafluoro-2-(3-(3-pyridinyl)-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol. 1H NMR (400 MHz, CD3OD) δ 8.67 (d, J=1.6 Hz, 1H), 8.47 (dd, J=4.9, 1.6 Hz, 1H), 8.02-7.94 (m, 1H), 7.89 (dd, J=5.1, 1.2 Hz, 1H), 7.71 (d, J=9.2 Hz, 1H), 7.60-7.53 (m, 2H), 7.43 (dd, J=7.8, 4.9 Hz, 1H), 7.31-7.22 (m, 2H), 2.97 (s, 8H). m/z (ESI, +ve ion) 551.6 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=0.775 μM; GK-GKRP EC50 (LC MS/MS)=0.783 μM.

reactant | 3-pyridineboronic acid | 0.173 mmol, 21.33 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | BrC=1C=C(C=CC1N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C(C(F)(F)F)(C(F)(F)F)O | C17H15BrF6N2O3S2
product | 1,1,1,3,3,3-hexafluoro-2-(3-(3-pyridinyl)-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | FC(C(C(F)(F)F)(O)C1=CC(=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C=1C=NC=CC1)(F)F | C22H19F6N3O3S2
